US07148226B2
3-(4-Propoxy-phenyl)-propionic acid
To a solution of methyl 3-(hydroxyphenyl)propionate (15 g, 83.24 mmol) and iodopropane (12.14 mL, 124.5 mmol) in DMF (80 mL) was added K2CO3 (34 g, 249.7 mmol). The resultant slurry was stirred vigorously and heated to 60° C. under argon for 12 h. DMF was evaporated and residue partitioned between EtOAC and 1N HCl. The organic layer was washed with H2O, and brine then dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (10% EtOAc in hexanes) to provide the desired product (17 g, 98%) as a clear oil. The resultat oil was dissolved in THF (150 mL), and 2M NaOH (68 mL) was added. The reaction was stirred overnight at room temperature. THF was evaporated and residue acidified with concentrated HCl and extracted 3 times with EtOAC, (100 mL). The organic layer was washed with H2O, dried over Na2SO4 and concentrated to a white solid which was recrystalized from hexanes to provide the desired product (14.06 g 82%).

reactant | methyl 3-(hydroxyphenyl)propionate | 83.24 mmol, 15 g | OC1=C(C=CC=C1)CCC(=O)OC | C10H12O3
reactant | iodopropane | 124.5 mmol, 12.14 mL | ICCC | C3H7I
reactant | K2CO3 | 249.7 mmol, 34 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 3-(4-Propoxy-phenyl)-propionic acid | 17 g, 98% | C(CC)OC1=CC=C(C=C1)CCC(=O)O | C12H16O3
